US07820680B2
Step 6: 9-Hydroxy-7-isopropyl-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione
A solution of 9-hydroxy-7-isopropyl-2-(1-propenyl)-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione (1.8 g, 6.4 mmol) in MeOH (15 mL) and 6 N aqueous HCl (10 mL) was heated to reflux for 1 h. The solvents were removed in vacuo and the residue was triturated in MeOH to give the title compound as a solid. HPLC RT=2.14 min (Method A); ES MS (M+H)=240; 1H NMR (400 MHz, DMSO-d6) δ 11.5 (v broad s, 1H), 9.19 (s, 1H), 5.04 (septet, J=7 Hz, 1H), 3.87 (t, J=7 Hz, 2H), 3.46 (m, 2H), 1.38 (d, J=7 Hz, 6H).

reactant | 9-hydroxy-7-isopropyl-2-(1-propenyl)-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione | 6.4 mmol, 1.8 g | OC1=C2N(C(N(C1=O)C(C)C)=O)CCN(C2=O)C=CC | C13H17N3O4
solvent | MeOH | 15 mL | CO | CH4O
solvent | HCl | 6 N, 10 mL | Cl | ClH
product | 9-Hydroxy-7-isopropyl-3,4-dihydro-2H-pyrazino[1,2-c]pyrimidine-1,6,8(7H)-trione | OC1=C2N(C(N(C1=O)C(C)C)=O)CCNC2=O | C10H13N3O4
